US04518596
8-Benzylthio-2-(N-formylpiperazino)-4-morpholino-pyrimido-[5,4-d]-pyrimidine
0.7 ml (0.006 mol) of benzyl chloride were added dropwise to a solution of 1.8 gm (0.005 mol) of 2-(N-formylpiperazino)-8-mercapto-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p. 250°-255° C.) in about 60 ml of 0.1N sodium hydroxide. After stirring the mixture at room temperature for one hour, the precipitated reaction product was suction-filtered off, washed with water and dried.

reactant | benzyl chloride | 0.006 mol, 0.7 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-(N-formylpiperazino)-8-mercapto-4-morpholino-pyrimido-[5,4-d]-pyrimidine | 0.005 mol, 1.8 gm | C(=O)N1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)S)N2CCOCC2 | C15H19N7O2S
solvent | sodium hydroxide | 0.1N, about 60 ml | [OH-].[Na+]
product | 8-Benzylthio-2-(N-formylpiperazino)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCN(CC2)C=O | C22H25N7O2S
